* c:\w\HV\blocking815.asc
L1 nb VCC 1µH Rser=1
L3 0 HV 1µH
Q1 nk nb 0 0 BD139
V1 VCC 0 PULSE(0 5 0.5s 0.1s)
L2 nk VCC 1µH Rser=1
R1 HV 0 999G
.model NPN NPN
.model PNP PNP
.lib D:\LTspiceIV\lib\cmp\standard.bjt
.tran 1s
.backanno
.end
